Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with family history of sudden cardiac death
presented to BID-P with chest pain and NSTEMI, transferred to
___ for further evaluation.

The patient reported that he was feeling well until this past
___, when he had to leave work early because he felt
feverish.  He was feeling feverish with intermittent body aches
until ___.  He took his temperature, and it was 99.4.  He
started feeling better on ___.  He had no cough, 
congestion,
chest pain, shortness of breath at that time.

On ___ morning, he had an episode of chest pain that lasted
approximately 1 hour.  It woke him from sleep. Pain radiated up
to the left shoulder without an exertional component, but with
shortness of breath. 

Patient denies any lightheadedness, presyncopal symptoms, cough,
abdominal pain, nausea, vomiting. Patient states that the pain
resolved just after arriving at outside hospital.

Evaluation at ___ was notable for elevated troponin I to
0.50 -> 1.22. He was given a full dose aspirin, started on a
heparin gtt, and an echo was performed. It was normal. He was
transferred to ___ for further evaluation.

At ___,
- Vitals: T 97.8   HR ___   BP 120s-140s/80s-90s  SpO2 97%RA
- ECG: Sinus arrhythmia with rate 73. Normal axis, intervals.
Evidence of LVH.
- Labs: WBC 11.7, troponin 0.13, MB 13 (MBI 9.8). H/H and BMP
wnl.
- Cardiology was consulted, who recommended admission to ___,
stopping heparin gtt, trending cardiac enzymes.
 
On the floor the patient verifies the above story. Reports that
he feels well. 

Of note, he had 2 episodes where he lost consciousness.  The
first episode occurred when he was ___ years old.  He went to 
___ at the time and was referred to ___ 
___.  He reports the evaluation at ___ was unremarkable.  He again lost consciousness in 
___, and he presented to ___.  No further
diagnostics were performed at that time.
 
REVIEW OF SYSTEMS:  
Full 10 point review of systems negative except as documented in
HPI.
 
Past Medical History:
Two episodes of syncope
 
Social History:
___
Family History:
Family history of sudden cardiac death (paternal grandfather in 
his ___ and heart disease on maternal side 
 
Physical Exam:
Admission Exam:
VITALS:  Reviewed
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: no elevated JVP
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

Discharge Exam:
24 HR Data (last updated ___ @ 846) 
Temp: 98.3 (Tm 98.5), BP: 131/69 (114-131/69-74), HR: 74 
(62-97),
RR: 20 (___), O2 sat: 99% (97-99), O2 delivery: RA, Wt: 150.4
lb/68.22 kg (150.13-150.4) 
I/O: None recorded  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, MMM. No xanthelasma.  
NECK: No elevated JVP
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs or friction rubs.
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No lower extremity edema.  
SKIN: Warm, well-perfused
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS
===============
___ 10:46PM   ALT(SGPT)-13 AST(SGOT)-22 ALK PHOS-64 TOT 
BILI-0.2
___ 10:46PM   CK-MB-7 cTropnT-0.11*
___ 10:46PM   TSH-2.1
___ 05:21PM   GLUCOSE-97 UREA N-12 CREAT-0.7 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-22 ANION GAP-15
___ 05:21PM   cTropnT-0.13*
___ 05:21PM   CK-MB-13* MB INDX-9.8*
___ 05:21PM   WBC-11.7* RBC-5.26 HGB-14.1 HCT-43.9 MCV-84 
MCH-26.8 MCHC-32.1 RDW-13.7 RDWSD-41.9
___ 05:21PM   NEUTS-62.6 ___ MONOS-12.1 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-7.35* AbsLymp-2.72 AbsMono-1.42* 
AbsEos-0.13 AbsBaso-0.06
___ 05:21PM   PLT COUNT-273
___ 05:21PM   ___ PTT-38.3* ___

No microbiology

No studies performed (TTE performed at OSH)
 
Brief Hospital Course:
___ year old male with history notable for recurrent syncope 
(once at age ___, once this past ___) of unclear etiology and 
family history of sudden cardiac death (paternal grandfather 
died in his ___ presents with chest pain and NSTEMI. TTE was 
unremarkable, ECG showed no signs of pericarditis or ischemia, 
and cardiac enzymes downtrended without intervention. Overall, 
presentation is most consistent with myocarditis, likely in the 
setting of a recent viral infection.

# CORONARIES:  Unknown
# PUMP:  Unknown
# RHYTHM:  Sinus arrhythmia

# Myocarditis
Presented to outside hospital with chest pain and found to have 
troponin elevation to 1.22, and was placed on a heparin drip. 
ECG was without concerning changes (no ST changes to suggest 
ischemia, no signs of WPW, HCM, ARVD, and Brugada. Notably, 
patient was recently with viral illness, noting myalgias and 
sore throat, raising concern for viral myocarditis. TTE showed 
no significant abnormalities. heparin drip was discontinued on 
admission to ___. Troponin down-trended to 0.13 -> 0.11. MB -> 
7. Patient's chest pain resolved prior to discharge.
- f/u Lyme serology
- Patient discharged on metoprolol-succinate 25 mg
- Follow-up troponin and MB in 1 week after discharge to ensure 
decreasing trajectory

# Elevated INR
Elevated ___, PTT, and INR. No known history of coagulopathy,
though remote history increased daily alcohol use. AST, ALT, ALP 
within normal limits. Possibly ___
poor PO intake in the setting of acute illness.
- F/u ___, PTT, INR as an outpatient outside of the setting of 
acute illness

# History of Syncope
Unclear etiology. Per patient, work-up thus far at ___ was unremarkable. Formal TTE at ___
without ___. Patient reported a family history of sudden 
cardiac death (grandfather passed in his ___, but is unable to 
provide more specific history. 

 
Medications on Admission:
Not on any home medications
 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Myocarditis
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were found to 
have chest pain and elevated heart enzyme levels. This was 
thought to be due to inflammation of the muscle around your 
heart, most likely from a viral infection.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were treated with blood thinning medication (heparin and 
aspirin)
- An echocardiogram (ultrasound of the heart) showed no 
significant abnormalities
- An electrocardiogram did not show signs of an acute heart 
attack

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___